US07968552B2
Tributylphosphine and 1,1′-(azodicarbonyl)dipiperidine were added to a THF solution of (4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methanol and 4-hydroxybenzaldehyde, followed by stirring at room temperature for 14 hours to obtain 4-[(4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxybenzaldehyde.

reactant | Tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | (4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methanol | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C1=C(C=CC=C1C)C)CO | C21H30O2Si
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | THF | C1CCOC1 | C4H8O
product | (4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxybenzaldehyde | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C1=C(C=CC=C1C)C)COC1=C(C=O)C=CC=C1 | C28H34O3Si
